US06159904
56-2) Synthesis of 3,3,5-trimethyl-4-methanesulfonyloxy-6-ethoxycarbonylthiochroman-1,1-dioxide
4.1 Grams (13 mmol)of 3,3,5-trimethyl-4-hydroxy-6-ethoxycarbonylthiochroman-1,1-dioxide was dissolved in 15 ml of pyridine, and the mixture was cooled in an ice bath. 1.8 Grams (16 mmol, 1.2 eq.) of methanesulfonyl chloride was gradually added thereto. After the addition, the ice bath was removed, and the mixture was allowed to stand overnight. The reaction mixture was diluted with 200 ml of ethyl acetate, and washed with 200 ml of water, with 150 ml of a 1 wt % hydrochloric acid aqueous solution twice, with 150 ml of a saturated sodium hydrogencarbonate aqueous solution and with 50 ml of water in this order. An organic layer was dried over sodium sulfate, the solvent was distilled off, and the residue was dried under reduced pressure to give 4.9 g (yield 97%) of a brownish oil. The brownish oil solidified after allowed to stand overnight.

reactant | 3,3,5-trimethyl-4-hydroxy-6-ethoxycarbonylthiochroman-1,1-dioxide | 13 mmol | CC1(CS(C2=CC=C(C(=C2C1O)C)C(=O)OCC)(=O)=O)C | C15H20O5S
reactant | methanesulfonyl chloride | 16 mmol, 1.2 eq. | CS(=O)(=O)Cl | CH3ClO2S
solvent | pyridine | 15 ml | N1=CC=CC=C1 | C5H5N
product | 3,3,5-trimethyl-4-methanesulfonyloxy-6-ethoxycarbonylthiochroman-1,1-dioxide | 4.9 g, yield 97% | CC1(CS(C2=CC=C(C(=C2C1OS(=O)(=O)C)C)C(=O)OCC)(=O)=O)C | C16H22O7S2
